US08877975B2
(1-(3,4-dichlorophenyl)cyclopentyl)-N,N-dimethylmethanamine (89)
The title compound was synthesized from 1-(3,4-dichlorophenyl)-cyclopentanecarboxylic acid and dimethyl amine using General Procedure G1, followed by General Procedure E in 87% yield. LCMS Rt=8.69 min, m/z=272 (M+1). 1H NMR (CDCl3, δ): 7.40 (d, J=2.2 Hz, 1H), 7.30 (d, J=8.4 Hz, 1H), 7.10 (dd, J=2.1, 8.4 Hz, 1H), 2.43 (s, 2H), 20.1 (s, 6H), 2.0-1.6 (m, 8H). 13C NMR (CDCl3, δ, mult): 149.2(0), 129.5(0), 129.2(1), 126.7(1), 131.6(1), 69.3(2), 52.1(0), 48.0(3), 36.0(2), 23.2(2),

reactant | 1-(3,4-dichlorophenyl)-cyclopentanecarboxylic acid | ClC=1C=C(C=CC1Cl)C1(CCCC1)C(=O)O | C12H12Cl2O2
reactant | dimethyl amine | CNC | C2H7N
product | (1-(3,4-dichlorophenyl)cyclopentyl)-N,N-dimethylmethanamine | 87% yield | ClC=1C=C(C=CC1Cl)C1(CCCC1)CN(C)C | C14H19Cl2N
